US08471005B2
Analogous to Example 1504, (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.0731 g, 0.189 mmol) and (3-Hydroxymethylphenyl)boronic acid (0.0513 g, 0.338 mmol) were reacted to afford (3-{2-[3-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanol as a yellow powder (15 mg, 20%). LCMS: 415 (M+H); 1H-NMR (CDCl3): 8.70 (s, 1H), 8.21 (s, 1H), 7.92 (s, 1H), 7.62 (d, 1H, J=6.96 Hz), 7.49 (m, 2H), 7.20 (t, 1H, J=8.19 Hz), 6.93 (d, 1H, J=4.50 Hz), 6.88 (s, 1H), 6.84 (d, 1H, J=4.50 Hz), 6.87 (d, 1H, J=8.19 Hz), 4.77 (s, 2H), 2.98 (t, 4H, J=4.96 Hz), 2.44 (t, 4H, J=4.96 Hz), 2.34 (s, 3H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.189 mmol, 0.0731 g | BrC1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCN(CC2)C | C17H19BrN6
reactant | (3-Hydroxymethylphenyl)boronic acid | 0.338 mmol, 0.0513 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
product | (3-{2-[3-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanol | 15 mg, 20% | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)CO | C24H26N6O
